US06747050B1
Synthesis of 3-{(1S)-1-(2-Naphthoylamino)-3-t-butoxycarbonyl-propyl}-5-methyl-4,5-dihydro-isoxazole-5-carboxylic Acid Methyl Ester
A solution of 3-[(1S)-1-(9-fluorenylmethyloxycarbonylamino)-3-t-butoxycarbonyl-propyl]-5-methyl-4,5-dihydro-isoxazole-5-carboxylic acid methyl ester (440 mg, 0.842 mmol) in DMF (8.0 mL) at room temperature was treated with piperidine (2.5 mL) for 5 min. After concentration, the residue was dissolved in DMF (10 mL), and treated with 2-naphthoic acid (174 mg, 1.2 eq), EDC (210 mg, 1.3 eq), HOBt (148 mg, 1.3 eq) and triethylamine (0.35 mL, 3.0 eq), then sired overnight (0° C. to room temperature). Usual workup followed by chromatography gave 133 mg of the title compound and 260 mg (˜50% purity) mixture.

reactant | 3-[(1S)-1-(9-fluorenylmethyloxycarbonylamino)-3-t-butoxycarbonyl-propyl]-5-methyl-4,5-dihydro-isoxazole-5-carboxylic acid methyl ester | 0.842 mmol, 440 mg | COC(=O)C1(CC(=NO1)[C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C | C29H34N2O7
reactant | piperidine | 2.5 mL | N1CCCCC1 | C5H11N
reactant | 2-naphthoic acid | 174 mg, 1.2 eq | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | EDC | 210 mg, 1.3 eq
reactant | HOBt | 148 mg, 1.3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.35 mL, 3.0 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | 3-{(1S)-1-(2-Naphthoylamino)-3-t-butoxycarbonyl-propyl}-5-methyl-4,5-dihydro-isoxazole-5-carboxylic Acid Methyl Ester | 133 mg | COC(=O)C1(CC(=NO1)[C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C25H30N2O6
